US04342780
With ice cooling, a suspension of 2-amino-2-fluoromethyl-3-(4-hydroxyphenyl)propionic acid (10.0 g) in absolute methanol (400 ml, dried over magnesium) is saturated with HCl gas. After heating at 90° C. overnight, the solvent is removed under reduced pressure, and the residue is dried for 3 hours under the vacuum of an oil pump. After dissolving in absolute methanol (400 ml) and saturating with HCl gas, the mixture is heated at 90° C. overnight again. After evaporation of the solvent, the residue is dissolved in water and a solution of sodium carbonate is added with stirring until pH~10. The suspension is extracted 3 times with ether; the combined ether extracts are filtered, washed carefully with water, dried (Na2SO4) and evaporated to give pure methyl 2-amino-2-fluoromethyl-3-(4-hydroxyphenyl)propionate (7.5 g, 70%) as white crystals, m.p. 130° C.; NMR (CD3OD): δ2.77 (2H, AB, JAB =14 Hz), 3.70 (3H, s), 4.50 (2H, ABX, JAB =9 Hz, JAX =JBX =JH--F =46 Hz), 6.87 (4H, A2B2 with additional fine splitting, JAB =9 Hz).

reactant | 2-amino-2-fluoromethyl-3-(4-hydroxyphenyl)propionic acid | 10.0 g | NC(C(=O)O)(CC1=CC=C(C=C1)O)CF | C10H12FNO3
reactant | HCl | Cl | ClH
reactant | methanol | 400 ml | CO | CH4O
product | methyl 2-amino-2-fluoromethyl-3-(4-hydroxyphenyl)propionate | 7.5 g, 70% | NC(C(=O)OC)(CC1=CC=C(C=C1)O)CF | C11H14FNO3
